US07973051B2
i) 2-(2-Methyl-thiophen-3-yl)-ethanol
To a solution of 1.6M BuLi in hexane (98.4 mL, 157.5 mmol) and THF (150 mL) was added at −78° C. a solution of 3-bromo-2-methyl-thiophene (CAS 30319-05-2, 26.6 g, 150 mmol) in THF (50 mL) and stirring at −78° C. was continued for 1 h. 2.0M ethylene oxide in THF (112.5 mL, 225 mmol) and then BF3-Et2O (20.4 mL, 165 mmol) was added dropwise at −70° C. and the yellow solution was stirred at −78° C. for 1 h. After warming to 0° C. the reaction mixture was quenched with 10% brine (400 mL) and extracted with ethyl acetate (400+200 mL). The organic layers were washed with 10% brine, dried (Na2SO4) and evaporated affording 18.6 g crude product as a yellow oil. Purification by chromatography over silica with hexane-ethyl acetate 5:1 gave 14.9 g (70%, GC 94.7%) yellow oil.

reactant | BuLi | 1.6M | [Li]CCCC
reactant | hexane | 157.5 mmol, 98.4 mL | CCCCCC | C6H14
reactant | 3-bromo-2-methyl-thiophene | 150 mmol, 26.6 g | BrC1=C(SC=C1)C | C5H5BrS
reactant | ethylene oxide | 2.0M | C1CO1 | C2H4O
reactant | BF3 Et2O | 165 mmol, 20.4 mL | B(F)(F)F.CCOCC
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 225 mmol, 112.5 mL | C1CCOC1 | C4H8O
product | 2-(2-Methyl-thiophen-3-yl)-ethanol | 18.6 g | CC=1SC=CC1CCO | C7H10OS
